US08431695B2
Preparation of 3-[4-amino-5-(2-benzyl-2H-indazol-6-yl)pyrrolo[2,1-f][1,2,4]triazin-7-yl]-N,N-dimethylpyrrolidine-1-carboxamide
(5-(2-benzyl-2H-indazol-6-yl)-7-pyrrolidin-3-ylpyrrolo[2,1-f][1,2,4]triazin-4-amine (75 mg, 0.183 mmol) was reacted with dimethylcarbamoyl chloride (14 uL, 0.192 mmol), according to the procedure of Example 126. The crude product was triturated with 1:1 ether-hexanes to yield (30 mg, 34%) desired product. 1H NMR (300 MHz, DMSO-d6) δ 8.53 (s, 1 H), 7.91 (s, 1 H), 7.81 (d, 1 H), 7.59 (s, 1H), 7.45-7.32 (m, 6 H), 7.13 (d, 1 H), 6.65 (s, 1 H), 5.64 (s, 2 H), 3.76 (m, 2 H), 3.42 (m, 3 H), 3.29 (m, 1 H), 2.73 (s, 6 H), 2.31-1.95 (m, 2 H); ES-MS m/z 481.2 [M+H]+, HPLC RT (min) 2.57.

reactant | 5-(2-benzyl-2H-indazol-6-yl)-7-pyrrolidin-3-ylpyrrolo[2,1-f][1,2,4]triazin-4-amine | 0.183 mmol, 75 mg | C(C1=CC=CC=C1)N1N=C2C=C(C=CC2=C1)C=1C=C(N2N=CN=C(C21)N)C2CNCC2 | C24H23N7
reactant | dimethylcarbamoyl chloride | 0.192 mmol, 14 uL | CN(C(=O)Cl)C | C3H6ClNO
product | 3-[4-amino-5-(2-benzyl-2H-indazol-6-yl)pyrrolo[2,1-f][1,2,4]triazin-7-yl]-N,N-dimethylpyrrolidine-1-carboxamide | 30 mg, 34% | NC1=NC=NN2C1=C(C=C2C2CN(CC2)C(=O)N(C)C)C=2C=CC1=CN(N=C1C2)CC2=CC=CC=C2 | C27H28N8O
